US05602170
Synthesis of 5-(N-2,3-dihydroxypropylaminomethyl)-2,2'-bithiophene
5-(N-2,3-dihydroxypropyliminomethylidene)-2,2'-bithiophene was dissolved in 50 ml of methanol and stirred in ice bath. NaBH4 was added until bubbling stopped. After the methanol was removed under reduced pressure and the residue was extracted with dichloromethane. The extract was washed with saturated NaCl solution, dried over anhydrous magnesium sulfate and condensed under reduced pressure. The crude yellow glue-like product was thus obtained.

reactant | 5-(N-2,3-dihydroxypropyliminomethylidene)-2,2'-bithiophene | OC(CN=C=C1CC=C(S1)C=1SC=CC1)CO | C12H13NO2S2
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(N-2,3-dihydroxypropylaminomethyl)-2,2'-bithiophene | OC(CNCC1=CC=C(S1)C=1SC=CC1)CO | C12H15NO2S2
